US08669266B2
(iii) 4-Hydroxy-naphthalene-2-carboxylic acid
To a solution of 18.5 g of 4-Acetoxy-naphthalene-2-carboxylic acid ethyl ester in 100 ml ethanol/water (9:1), 240 ml of a 1M NaOH was added and stirred for 2 days at RT. Then, the reaction mixture was acidified to pH 2 with diluted hydrochloric acid to precipitate the product. The product was then collected by filtration and dried reduced pressure. Yield: 13.7 g.

reactant | 4-Acetoxy-naphthalene-2-carboxylic acid ethyl ester | 18.5 g | C(C)OC(=O)C1=CC2=CC=CC=C2C(=C1)OC(C)=O | C15H14O4
reactant | NaOH | 1M | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol water | 100 ml | C(C)O.O
product | 4-Hydroxy-naphthalene-2-carboxylic acid | OC1=CC(=CC2=CC=CC=C12)C(=O)O | C11H8O3
